US08211908B2
To a solution of 53 mg of 1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)-2-methylpiperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one in 1 mL of ethyl acetate, 0.23 mL of a 4.0 mol/L hydrogen chloride/ethyl acetate solution was added at room temperature, and after stirring, the solid was filtered off to obtain 40 mg of 1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)-2-methylpiperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one hydrochloride as a light yellow solid.

reactant | 1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)-2-methylpiperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one | 53 mg | O1CCOC=2C=NC(=CC21)CNC2CC(N(CC2)CCN2C(C=CC1=NC=C(C=C21)OC)=O)C | C25H31N5O4
reactant | hydrogen chloride ethyl acetate | 4.0 mol/L | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)-2-methylpiperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one hydrochloride | 40 mg | Cl.O1CCOC=2C=NC(=CC21)CNC2CC(N(CC2)CCN2C(C=CC1=NC=C(C=C21)OC)=O)C | InChI=1S/C25H31N5O4.ClH/c1-17-11-18(26-14-19-12-23-24(16-27-19)34-10-9-33-23)5-6-29(17)7-8-30-22-13-20(32-2)15-28-21(22)3-4-25(30)31;/h3-4,12-13,15-18,26H,5-11,14H2,1-2H3;1H
